US07518017B2
L-Alanine (5.0 g, 5.6 mmol) was suspended in methylene chloride (20 mL) at 0° C. To the cooled solution was added trifluoroacetic anhydride (1.52 g, 7.3 mmol) with stirring. After the trifluoroacetic anhydride was added, the reaction mixture was allowed to warm to room temperature over a time period of about 30 min., with stirring, and stirring was continued for about 5 hrs. The solvent was then removed under reduced pressure and toluene (about 100 mL) was added. The toluene was distilled to remove water as an azeotrope and the remaining toluene removed under reduced pressure to provide N-(trifluoroacetyl)-L-alanine (90% yield).

reactant | L-Alanine | 5.6 mmol, 5.0 g | N[C@@H](C)C(=O)O | C3H7NO2
reactant | trifluoroacetic anhydride | 7.3 mmol, 1.52 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | N-(trifluoroacetyl)-L-alanine | 90% yield | FC(C(=O)N[C@@H](C)C(=O)O)(F)F | C5H6F3NO3
